### PR TITLE
[Merged by Bors] - chore: restate `isNoetherian_of_fg_of_noetherian'` using `Module.Finite` (and rename).

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Noetherian.lean [hunk 1]
```diff
@@ -571,6 +571,11 @@ theorem isNoetherian_of_fg_of_noetherian' {R M} [Ring R] [AddCommGroup M] [Modul
   isNoetherian_of_linearEquiv (LinearEquiv.ofTop (⊤ : Submodule R M) rfl)
 #align is_noetherian_of_fg_of_noetherian' isNoetherian_of_fg_of_noetherian'
 
+instance _instIsNoetherian_of_isNoetherianRing_of_finite {R M : Type*}
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Noetherian.lean:574]: Why the leading `_`?

Comment (ocfnash) [reply Mathlib/RingTheory/Noetherian.lean:574]: A typo, thanks!

Comment (ocfnash) [inline Mathlib/RingTheory/Noetherian.lean:574]:
```suggestion
instance instIsNoetherian_of_isNoetherianRing_of_finite {R M : Type*}
```

File: Mathlib/RingTheory/Noetherian.lean [hunk 2]
```diff
@@ -571,6 +571,11 @@ theorem isNoetherian_of_fg_of_noetherian' {R M} [Ring R] [AddCommGroup M] [Modul
   isNoetherian_of_linearEquiv (LinearEquiv.ofTop (⊤ : Submodule R M) rfl)
 #align is_noetherian_of_fg_of_noetherian' isNoetherian_of_fg_of_noetherian'
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Noetherian.lean:572]: I think `isNoetherian_of_fg_of_noetherian'` should just be removed, it's just a weird way of writing the instance. Can you inline the proof into the instance?

**Comment by eric-wieser** [comment]
bors d+

File: Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean [hunk 3]
```diff
@@ -139,6 +139,8 @@ theorem gelfandTransform_map_star (a : A) :
 
 variable (A)
 
+attribute [-instance] instIsNoetherian_of_isNoetherianRing_of_finite
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean:142]: Was this previously not an instance because it formed a typeclass loop? Is this evidence that typeclass loops are still problematic even in Lean 4?

**Comment by ocfnash** [comment]
I am no longer convinced that Mathlib is ready for `instIsNoetherian_of_isNoetherianRing_of_finite` to become an instance.

Of course it does form a loop with `Module.IsNoetherian.finite` but such things are allegedly fine in Lean 4 so I don't see what the problem is.

The "fix" applied in https://github.com/leanprover-community/mathlib4/pull/6609/commits/21acc4a130cbf64c231002a0a13f601a74d4a128 was needed because of a complaint that a `StarRing C(characterSpace ℂ A, ℂ)` instance could not be found. I tried to "fix" this by adding:
```lean
  let _i : StarRing C(characterSpace ℂ A, ℂ) :=
    ContinuousMap.instStarRingContinuousMapInstNonUnitalSemiringContinuousMap
```
on lines 152-153 of `GelfandDuality.Lean`. To my astonishment, this breaks the remainder of the proof even on master!

I am currently confused and quite disappointed.

File: Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean:142]: Oh, our comments crossed. I think the answer is "yes".

**Comment by eric-wieser** [comment]
bors d-

File: Mathlib/RingTheory/Adjoin/Tower.lean [hunk 4]
```diff
@@ -164,7 +164,8 @@ theorem fg_of_fg_of_fg [IsNoetherianRing A] (hAC : (⊤ : Subalgebra A C).FG)
   Algebra.fg_trans' (B₀.fg_top.2 hAB₀) <|
     Subalgebra.fg_of_submodule_fg <|
       have : IsNoetherianRing B₀ := isNoetherianRing_of_fg hAB₀
-      have : IsNoetherian B₀ C := isNoetherian_of_fg_of_noetherian' hB₀C
+      have : Module.Finite B₀ C := ⟨hB₀C⟩
+      have : IsNoetherian B₀ C := isNoetherian_of_isNoetherianRing_of_finite B₀ C
       fg_of_injective (IsScalarTower.toAlgHom B₀ B C).toLinearMap hBCi
 #align fg_of_fg_of_fg fg_of_fg_of_fg
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Adjoin/Tower.lean:170]: This lemma should probably replace `(⊤ : Submodule B C).FG` for `Module.Finite B C`, though that probably makes sense for a separate PR.

File: Mathlib/RingTheory/Filtration.lean [hunk 5]
```diff
@@ -404,7 +404,7 @@ variable {F}
 
 theorem Stable.of_le [IsNoetherianRing R] [h : Module.Finite R M] (hF : F.Stable)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Filtration.lean:405]:
```suggestion
theorem Stable.of_le [IsNoetherianRing R] [Module.Finite R M] (hF : F.Stable)
```
unless we still use `h` later.

**Review by eric-wieser — APPROVED** [review]
bors d+

LGTM, thanks for the new version.

File: Mathlib/RingTheory/Adjoin/Tower.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/RingTheory/Adjoin/Tower.lean:170]: Yes, I was going to do it until I realised this entire file needs such a change made (and appropriate renames etc). Worth doing but I'll defer for now.

File: Mathlib/RingTheory/Filtration.lean [hunk 6]
```diff
@@ -438,7 +438,7 @@ theorem Ideal.mem_iInf_smul_pow_eq_bot_iff [IsNoetherianRing R] [hM : Module.Fin
   have hN : ∀ k, (I.stableFiltration ⊤ ⊓ I.trivialFiltration N).N k = N :=
     fun k => inf_eq_right.mpr ((iInf_le _ k).trans <| le_of_eq <| by simp)
   constructor
-  · haveI := isNoetherian_of_fg_of_noetherian' hM.out
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/RingTheory/Filtration.lean:441]: Thanks, done.

**Comment by ocfnash** [comment]
bors merge
